US09145366B2
Preparation of 5-(3-chlorophenyl)-3-hydroxypyridine-2-carboxylic acid (3):
To a 50 mL round bottom flask adapted for magnetic stirring and fitted with a reflux condenser was charged 5-(3-chlorophenyl)-3-methoxy-2-cyanopyridine, 2, (1 g, 4 mmol) and a 48% aqueous solution of HBr (10 mL). While being stirred, the reaction solution was heated to reflux for 20 hours. The reaction was determined to be complete due to the disappearance of 5-(3-chlorophenyl)-3-methoxy-2-cyanopyridine as measured by TLC analysis using hexane/ethyl acetate (6:3) as the mobile phase and UV 435 nm to visualize the reaction components. The reaction contents was then cooled to 0° C. to 5° C. with stirring and the pH was adjusted to approximately 2 by the slow addition of 50% aqueous NaOH. Stirring was then continued at 0° C. to 5° C. for 3 hours. The resulting solid was collected by filtration and washed with water, then hexane. The resulting cake was dried in vacuo at 40° C. to afford 1.03 g (quantitative yield) of the desired product as an off-white solid. 1H NMR (DMSO-d6) δ 8.52 (d, 1H), 7.99 (d, 1H), 7.95 (s, 1H) 7.81 (t, 1H), 7.57 (s, 1H), and 7.55 (s, 1H).

reactant | 5-(3-chlorophenyl)-3-methoxy-2-cyanopyridine | ClC=1C=C(C=CC1)C=1C=C(C(=NC1)C#N)OC | C13H9ClN2O
reactant | HBr | 10 mL | Br | BrH
reactant | NaOH | [OH-].[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5-(3-chlorophenyl)-3-hydroxypyridine-2-carboxylic acid | 1.03 g, quantitative yield | ClC=1C=C(C=CC1)C=1C=C(C(=NC1)C(=O)O)O | C12H8ClNO3
